US07582657B2
(2E)-3-[2-Bromo-4-(trifluoromethyl)phenyl]-N-indol-5-ylprop-2-enamide
2-Bromo-4-(trifluoromethyl)benzoic acid. To a solution of 2-bromo-1-methyl-4-trifluoromethylbenzene (7.6 g, 32 mmol, ABCR) in pyridine (75 mL) was added tetraethylammonium permanganate (24 g, 96 mmol, prepared according to the procedure of Sala, et al. J. Chem. Soc., Chem. Comm. 1978, 253). The reaction mixture was warmed to 70° C. and stirred at that temperature for 30 h. The reaction mixture was allowed to cool to 25° C. and poured into an ice bath containing cond HCl (150 mL) and NaHSO3 (150 g). The mixture turned to a clear aqueous solution and was extracted with EtOAc (4×200 mL). The combined extracts were washed with satd NaCl (200 mL), dried over Na2SO4, filtered and concentrated in vacuo to provide the title product as a white solid. MS (ESI, neg. ion) m/z: 267 (M−1).

reactant | 2-Bromo-4-(trifluoromethyl)benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4BrF3O2
reactant | 2-bromo-1-methyl-4-trifluoromethylbenzene | 32 mmol, 7.6 g | BrC1=C(C=CC(=C1)C(F)(F)F)C | C8H6BrF3
reactant | tetraethylammonium permanganate | [Mn](=O)(=O)(=O)[O-].C(C)[N+](CC)(CC)CC
reactant | HCl | 150 mL | Cl | ClH
reactant | NaHSO3 | 150 g | OS(=O)[O-].[Na+]
reactant | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | (2E)-3-[2-Bromo-4-(trifluoromethyl)phenyl]-N-indol-5-ylprop-2-enamide | BrC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)NC=1C=C2C=CNC2=CC1 | C18H12BrF3N2O
